US05962462
Step C: N-(3-Hydroxy-2-phenylpropyl)-N-methylbenzene-sulfonamide
A THF solution of tetrabutylammonium fluoride (1.0 M, 3.9 mL, 3.9 mmol) was added to dropwise to a solution of N-(3-(tert-butyldimethylsilyloxy)-2-phenylpropyl)-N-methylbenzenesulfonamide (570 mg, 1.31 mmol) in 5.0 mL of THF. After stirring for 30 min at room temperature, the mixture was diluted with 50 mL of ethyl acetate and washed in sucession with 30 mL of 2.0 N aqueous HCl, 30 mL of saturated aqueous sodium bicarbonate, and 30 mL of brine. The organic layer was dried over sodium sulfate, decanted and concentrated. The residue was purified by flash column chromatography on silica gel, eluting with 20-30% of ethyl acetate in hexanes to give 393 mg of the title compound as a colorless syrup. 1NMR (400 MHz, CD3OD): δ 7.74 (d, 2H, J=7 Hz), 7.64 (tt, 1H, J=7, 1 Hz), 7.56 (t, 2H, J=7 Hz), 7.33-7.20 (m, 5H), 3.79-3.71 (m, 2H), 3.41 (dd, 1H, J=13, 7 Hz), 3.24 (dd, 1H, J=13, 8 Hz), 3.13-3.04 (m, 1H), 2.58 (s, 3H).

reactant | tetrabutylammonium fluoride | 3.9 mmol, 1.0 M, 3.9 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-(3-(tert-butyldimethylsilyloxy)-2-phenylpropyl)-N-methylbenzenesulfonamide | 1.31 mmol, 570 mg | [Si](C)(C)(C(C)(C)C)OCC(CN(S(=O)(=O)C1=CC=CC=C1)C)C1=CC=CC=C1 | C22H33NO3SSi
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-Hydroxy-2-phenylpropyl)-N-methylbenzene-sulfonamide | 393 mg | OCC(CN(S(=O)(=O)C1=CC=CC=C1)C)C1=CC=CC=C1 | C16H19NO3S
